US04462992
1-(2-Hydroxycyclohexyl)-2-nitroimidazole
A suspension of 0.565 g (5 mmole) of 2-nitroimidazole, 50 ml of ethanol, 5.0 ml of cyclohexene oxide, and 0.25 g of potassium carbonate was refluxed with stirring under nitrogen for 16 hr. The resulting yellow solution was evaporated and the residue dissolved in 100 ml of chloroform and filtered. The filtrate was evaporated and the residue purified by preparative TLC with ethyl acetate: benzene (2:1) as eluant to provide 0.359 g (34.0%). It was recrystallized from ethyl acetate-ether, mp 141° C.

reactant | 2-nitroimidazole | 5 mmole, 0.565 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | cyclohexene oxide | 5.0 ml | C12C(CCCC1)O2 | C6H10O
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-Hydroxycyclohexyl)-2-nitroimidazole | OC1C(CCCC1)N1C(=NC=C1)[N+](=O)[O-] | C9H13N3O3
